US05863917
N-(6-Chloro-7-methyl-2,3-dimethoxyquinoxalin-5-yl)-N-(3-hydroxypropyl)methanesulphonamide (0.94 g, 2.41 mmol) and pyridinium dichromate (2.42 g, 9.63 mmol) in DMF (24 ml) were stirred at room temperature for 18 hours. The reaction mixture was poured into water (25 ml) and extracted twice with dichloromethane. The combined dichloromethane extracts were extracted twice with 10% potassium carbonate solution. The potassium carbonate extracts were acidified to pH1 with 2M HCl and extracted twice with dichloromethane. These combined dichloromethane extracts were dried (MgSO4) and concentrated under reduced pressure to give N-(2-carboxyethyl)-N-(6-chloro-7-methyl-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide an off-white solid (0.49 g, 51%).

reactant | N-(6-Chloro-7-methyl-2,3-dimethoxyquinoxalin-5-yl)-N-(3-hydroxypropyl)methanesulphonamide | 2.41 mmol, 0.94 g | ClC=1C(=C2N=C(C(=NC2=CC1C)OC)OC)N(S(=O)(=O)C)CCCO | C15H20ClN3O5S
reactant | pyridinium dichromate | 9.63 mmol, 2.42 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | 25 ml | O | H2O
solvent | DMF | 24 ml | CN(C)C=O | C3H7NO
product | N-(2-carboxyethyl)-N-(6-chloro-7-methyl-2,3-dimethoxyquinoxalin-5-yl)methanesulphonamide | C(=O)(O)CCN(S(=O)(=O)C)C1=C2N=C(C(=NC2=CC(=C1Cl)C)OC)OC | C15H18ClN3O6S
